US07022725B2
To a solution of ethyl 5-(4-trifluoromethoxyphenyl)isoxazole-4-carboxylate (6.60 g) in tetrahydrofuran (80 ml) was gently added diisobutylaluminum hydride (1.0 M tetrahydrofuran solution, 55 ml) at 0° C. The mixture was stirred at room temperature for 30 min. The reaction mixture was poured into dilute hydrochloric acid and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated to give 5-(4-trifluoromethoxyphenyl)-4-isoxazolylmethanol (5.70 g, yield 99%) as colorless crystals. The crystals were recrystallized from ethyl acetate-hexane. melting point: 45–46° C.

reactant | ethyl 5-(4-trifluoromethoxyphenyl)isoxazole-4-carboxylate | 6.60 g | FC(OC1=CC=C(C=C1)C1=C(C=NO1)C(=O)OCC)(F)F | C13H10F3NO4
reactant | diisobutylaluminum hydride | 1.0 M, 55 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 5-(4-trifluoromethoxyphenyl)-4-isoxazolylmethanol | 5.70 g, yield 99% | FC(OC1=CC=C(C=C1)C1=C(C=NO1)CO)(F)F | C11H8F3NO3
